US07226768B2
Synthesis of p-nitrophenoxyoctane (8 pnpane)
1-bromooctane (1 g, 5.18 mmole) and 4-nitrophenol, sodium salt (0.92 g, 5.71 mmole) were refluxed in DMSO (30 ml) at 120° C. for 5 hours. The DMSO was distilled off to near dryness. The resulting brown residue was loaded onto a silica column and eluted with 10:1 mixture of petroleum ether and diethylether. The yield was 30%. 1H NMR (CDCl3, peaks at=8.18 (m, 2H), 6.93 (m, 2H), 4.04 (t, 2H), 1.81 (p, 2H), 1.33 (m, 10H), 0.89 (t, 3H). Elemental analysis calculated for C14H21O3N: C, 66.91; H, 8.42; N, 5.57. Found: C, 66.97; H, 8.34; N5.52.

reactant | 1-bromooctane | 5.18 mmole, 1 g | BrCCCCCCCC | C8H17Br
reactant | 4-nitrophenol | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | sodium | 5.71 mmole, 0.92 g | [Na] | Na
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
product | p-nitrophenoxyoctane | yield was 30% | [N+](=O)([O-])C1=CC=C(OCCCCCCCC)C=C1 | C14H21NO3
